US07214809B2
3-(3-(t-Butyldimethylsilyl)propyloxy)-2-hydroxypropylamine (19.0 g, 0.077 mol), triethylamine (7.8 g, 10.8 mL, 0.08 mol), and methylene chloride (57 mL) were mixed in a 250 mL one-neck flask which was placed in an ice bath. To the above mixture, methacryloyl chloride (8.3 g, 7.73 mL, 077 mol) was added dropwise through an additional funnel at 0° C. After the completion of the addition of methacryloyl chloride, the whole mixture was allowed to warm up to room temperature and stirred at ambient temperature for two days. The reaction suspension was diluted with 100 mL of methylene chloride and washed with deionized water, 0.5 N sodium hydroxide aqueous solution, 5% sodium chloride solution in water twice and saturated sodium chloride aqueous solution in sequence. The organic phase was dried over sodium sulfate. After the removal of sodium sulfate by filtration, the solvent was evaporated by using a rotary evaporator under vacuum. N-[2-Hydroxy-3-(3-(t-butyldimethylsilyl)propyloxy)propyl]-2-methyl acrylamide was obtained as a white solid after purification by silica gel column chromatography.

reactant | 3-(3-(t-Butyldimethylsilyl)propyloxy)-2-hydroxypropylamine | 0.077 mol, 19.0 g | [Si](C)(C)(C(C)(C)C)CCCOCC(CN)O | C12H29NO2Si
reactant | triethylamine | 0.08 mol, 10.8 mL, 7.8 g | C(C)N(CC)CC | C6H15N
reactant | methacryloyl chloride | 7.73 mL, 8.3 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 57 mL | C(Cl)Cl | CH2Cl2
product | N-[2-Hydroxy-3-(3-(t-butyldimethylsilyl)propyloxy)propyl]-2-methyl acrylamide | OC(CNC(C(=C)C)=O)COCCC[Si](C)(C)C(C)(C)C | C16H33NO3Si
